US07816558B2
Ethyl 2-[4-(benzyloxy)-3-cyanophenyl]-4-methyl-1,3-thiazole-5-carboxylate was suspended in a mixture of THF and ethanol, then palladium-carbon was added thereto, and the mixture was stirred under a hydrogen atmosphere at room temperature to obtain ethyl 2-(3-cyano-4-hydroxyphenyl)-4-methyl-1,3-thiazole-5-carboxylate. APN: 287.

reactant | Ethyl 2-[4-(benzyloxy)-3-cyanophenyl]-4-methyl-1,3-thiazole-5-carboxylate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)C#N | C21H18N2O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | ethyl 2-(3-cyano-4-hydroxyphenyl)-4-methyl-1,3-thiazole-5-carboxylate | C(#N)C=1C=C(C=CC1O)C=1SC(=C(N1)C)C(=O)OCC | C14H12N2O3S
